data/rdb19/train.csv
rxn,smiles,ea
3388,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14](=[C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])[H:24])([H:20])([H:21])[H:22].[C:1]([H:5])([H:6])([H:7])[H:23].[C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12],86.41013802628731
3960,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([H:25])([H:26])[H:27]>>[C:1]([C:2]([H:13])([H:14])[C:24]([H:25])([H:26])[H:27])([H:10])([H:11])[H:12].[C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23],53.38512642664136
2921,[C:16]([C:17]([C:18]([C:19]([H:26])([H:27])[H:28])[C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:14])[H:15])([H:13])[C:18]([C:17]([C:16]([H:21])([H:22])[H:23])([H:24])[H:25])([C:19]([H:26])([H:27])[H:28])[C:20]([H:29])([H:30])[H:31])([H:11])[H:12])([H:8])([H:9])[H:10],14.945074760355055
1578,[C:15]([C:16]([O:17][C:18](=[O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([C:16]([O:17][C:18](=[O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])([H:25])[H:26])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([H:5])[H:22])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],22.977379268675577
1984,[C:11]([C:12]([C:13]([C:14]([H:24])([H:25])[H:26])([C:15]([H:16])[H:17])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12]([C:13]([C:14]([H:24])([H:25])[H:26])=[C:15]([H:16])[H:17])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[H:23])([H:6])[H:7],32.07718074694276
4693,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([C:18](=[O:19])[O:20][C:21]=[C:22]([H:27])[H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:26],65.36324005469214
3436,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8].[H:14][C:22]([C:21]([C:19]([O:18][C:17]([H:24])([H:25])[H:26])=[O:20])[C:23]([H:29])([H:30])[H:31])([H:27])[H:28],27.379021068045404
4911,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29].[C:1]([C:2](=[C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9].[H:11][C:15]([H:25])([H:26])[H:27],83.28379241400398
4168,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11].[H:13][C:23]([N:22]([C:21](=[C:20]([H:25])[H:26])[H:27])[H:28])([O:24])[H:29],51.04411727137631
2067,[C:11]([C:12]([C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3][C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],28.45431993168313
2416,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:21])([H:22])[H:23])([N:12]([C:13](=[O:14])[H:25])[H:24])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:21])([H:22])[H:23])([N:12][C:13](=[O:14])[H:25])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17].[H:5][H:24],58.84285776858451
